US05656642
11.1 ml of benzaldehyde and 10 g of Molecular Sieve 3A were added to 50 ml of a solution of 2.97 g of 4-amino-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine in methanol. The mixture was refluxed by heating, for 150 minutes. Thereto was added 4.97 g of sodium borohydride in small portions, under ice-cooling. The mixture was stirred for 1 hour under ice-cooling. The Molecular Sieve 3A was removed by filtration and the filtrate was subjected to distillation to remove the solvent. To the residue was added water. The mixture was made acidic with hydrochloric acid and then washed with ethyl acetate. The aqueous layer was made alkaline with an aqueous sodium hydroxide solution, under ice-cooling, followed by extraction with methylene chloride. The extract was washed with water, dried with anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (eluant:methylene chloride/methanol=50/1), followed by recrystallization from methylene chloride-ethyl acetate to obtain 2.92 g of 4-benzylamino-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine as a white powder.

reactant | benzaldehyde | 11.1 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | 4-amino-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 2.97 g | NC1CCN(CC1)C(C1=CC=C(C=C1)N1N=CN=C1)=O | C14H17N5O
reactant | sodium borohydride | 4.97 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 4-benzylamino-1-[4-(1,2,4-triazol-1-yl)benzoyl]piperidine | 2.92 g | C(C1=CC=CC=C1)NC1CCN(CC1)C(C1=CC=C(C=C1)N1N=CN=C1)=O | C21H23N5O
